US09422267B2
To a solution of 6-fluoro-N-methylpyridin-3-amine (272 mg, 2.16 mmol) in THF (70 mL) was added isopropyl magnesium chloride solution 2M in THF (1.08 mL, 2.16 mmol) dropwise at 0° C. The mixture was allowed to stir at 0° C. for 20 min. Then, a solution of (R)-methyl 1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylate (200 mg, 0.54 mmol) in THF (3 mL) was added and the reaction mixture was allowed to stir at RT for 2 h. The reaction was quenched with saturated ammonium chloride solution (50 mL) and the mixture was extracted with EtOAc (3×50 mL). The combined organic layer was washed with brine and dried over anhydrous sodium sulfate. Removal of EtOAc under reduced pressure gave an oily residue that was purified by reverse phase HPLC to afford 17 mg of (R)—N-(6-fluoropyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-methylpyrrolidine-2-carboxamide. 1HNMR (400 MHz, CDCl3) δ (ppm): 1.20-1.35 (m, 6H), 1.79-2.25 (m, 6H), 2.57-2.68 (m, 2H), 2.79-2.82 (m, 2H), 2.91-3.01 (m, 1H), 3.30 (s, 3H), 3.59-3.80 (m, 2H), 4.35-4.45 (m, 1H), 6.16 (s, 1H), 6.90-7.05 (m, 2H), 8.01 (brs, 1H), 8.40 (brs, 1H). The other enantiomer is prepared using the (S) chiral starting material.

reactant | 6-fluoro-N-methylpyridin-3-amine | 2.16 mmol, 272 mg | FC1=CC=C(C=N1)NC | C6H7FN2
reactant | isopropyl magnesium chloride | 2M | C(C)(C)[Mg]Cl
reactant | (R)-methyl 1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylate | 0.54 mmol, 200 mg | C(C)(C)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1[C@H](CCC1)C(=O)OC)CCC2 | C19H26N6O2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2.16 mmol, 1.08 mL | C1CCOC1 | C4H8O
product | (R)—N-(6-fluoropyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-methylpyrrolidine-2-carboxamide | 17 mg | FC1=CC=C(C=N1)N(C(=O)[C@@H]1N(CCC1)C=1N=C(C2=C(N1)CCC2)NC2=NNC(=C2)C(C)C)C | C24H29FN8O
